US07547697B2
(1S,8R)-1,11,11-Trimethyl-5-(3-methyl-butyl)-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene
yellow solid. MS (ESI): 259.0 (MH+). Prepared from (1S,4R)-1,7,7-trimethyl-bicyclo[2.2.1]heptane-2,3-dione, (5-methyl-2-oxo-hexyl)-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | (1S,4R)-1,7,7-trimethyl-bicyclo[2.2.1]heptane-2,3-dione | C[C@]12C(C([C@H](CC1)C2(C)C)=O)=O | C10H14O2
reactant | (5-methyl-2-oxo-hexyl)-phosphonic acid dimethyl ester | COP(OC)(=O)CC(CCC(C)C)=O | C9H19O4P
reactant | hydrazine monohydrate | O.NN
product | (1S,8R)-1,11,11-Trimethyl-5-(3-methyl-butyl)-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene | C[C@]12C3=NN=C(C=C3[C@H](CC1)C2(C)C)CCC(C)C | C17H26N2
